US09126945B2
5-Amino-2-chloro-N-(1-cyanocyclopropyl)benzamide
3.15 g of iron powder are suspended in 18 ml of 5% strength acetic acid, and a solution of 3.0 g of 2-chloro-N-(1-cyanocyclopropyl)-5-nitrobenzamide in a mixture of 25 ml of ethyl acetate and 22.6 ml of glacial acetic acid is added. During the addition, the internal temperature is kept below 45° C. The reaction mixture is stirred at room temperature for 14 hours and then filtered through Celite. The filtrate is diluted with water, and the aqueous phase is extracted three times with ethyl acetate. The combined organic phases are washed twice with a saturated sodium chloride solution, dried over magnesium sulphate, filtered and concentrated on a rotary evaporator under reduced pressure. The crude product is triturated with a mixture of three parts of cyclohexane and one part of ethyl acetate, and the solid is filtered off. This gives 2.0 g (71%) of 5-amino-2-chloro-N-(1-cyanocyclopropyl)benzamide.

reactant | 2-chloro-N-(1-cyanocyclopropyl)-5-nitrobenzamide | 3.0 g | ClC1=C(C(=O)NC2(CC2)C#N)C=C(C=C1)[N+](=O)[O-] | C11H8ClN3O3
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 22.6 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 3.15 g | [Fe] | Fe
product | 5-Amino-2-chloro-N-(1-cyanocyclopropyl)benzamide | NC=1C=CC(=C(C(=O)NC2(CC2)C#N)C1)Cl | C11H10ClN3O
